US04795755
A mixture of 4-[2-(3-[2,2,2-trifluoroethyl]thioureido)pyrid-6-ylthio]butyronitrile (29 g.), yellow mercuric oxide (29 g.) and a saturated solution of ammonia in EtOH (100 ml.) was stirred at room temperature for 24 hours and then filtered. The filtrate was evaporated to dryness and the residue triturated with petroleum ether (b.p. 60°-80°) and collected to give 4-[2-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-6-ylthio]butyronitrile (24 g.), m.p. 89°-91°.

reactant | 4-[2-(3-[2,2,2-trifluoroethyl]thioureido)pyrid-6-ylthio]butyronitrile | 29 g | FC(CNC(NC1=NC(=CC=C1)SCCCC#N)=S)(F)F | C12H13F3N4S2
reactant | ammonia | N | H3N
solvent | EtOH | 100 ml | CCO | C2H6O
product | 4-[2-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-6-ylthio]butyronitrile | 24 g | FC(CN=C(NC1=NC(=CC=C1)SCCCC#N)N)(F)F | C12H14F3N5S
